US06936608B2
c) 2′-Fluoro-3′-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)biphenyl-2-carbonitrile
7-Bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine was coupled with 2′-cyano-2-fluorobiphenyl-3-boronic acid as described in Example 3, step f, to give 21 mg (15%) of the title compound: mp 167-168° C.; 1H NMR (360 MHz, CDCl3) δ 7.47-7.60 (4H, m), 7.73 (1H, dd, J 1.4, 7.7 Hz), 7.84 (1H, dd, J 0.7, 7.0 Hz), 8.26-8.30 (1H, m), 8.69 (1H, d, J 2.8 Hz), 8.83 (1H, s); MS (ES+) m/z 384 [M+H]+. Anal. Found: C, 59.14; H, 2.75; N, 18.01%. Required for C19H9F4N5.0.2H2O: C, 58.98; H, 2.45; N, 18.10%.

reactant | 7-Bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
reactant | 2′-cyano-2-fluorobiphenyl-3-boronic acid | C(#N)C1=C(C=CC=C1)C1=C(C(=CC=C1)B(O)O)F | C13H9BFNO2
product | 2′-Fluoro-3′-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)biphenyl-2-carbonitrile | 21 mg, 15% | FC1=C(C=CC=C1C1=CN=C2N1N=CC(=N2)C(F)(F)F)C=2C(=CC=CC2)C#N | C19H9F4N5
